US07312233B2
Preparation of (5-amino-1H-indol-2-yl)methanol
2-Ethoxycarbonyl-5-nitroindole (500 mg, 0.002 mol) was dissolved in 50 mL THF, added lithium tetrahydroaluminate (341 mg, 0.00898 mol) in 3 portions and stirred at room temperature overnight. Water (341 μL), 15% NaOH solution (341 μL), and water (1.1 mL) were added cautiously and the mixtured was filtered. The filtrate was concentrated under vacuum to give the product (300 mg, 98%) as an oil. m/z=162.9.

reactant | 2-Ethoxycarbonyl-5-nitroindole | 0.002 mol, 500 mg | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C11H10N2O4
reactant | lithium tetrahydroaluminate | 0.00898 mol, 341 mg | [AlH4-].[Li+]
reactant | Water | 341 μL | O | H2O
reactant | NaOH | 341 μL | [OH-].[Na+]
reactant | water | 1.1 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (5-amino-1H-indol-2-yl)methanol | 300 mg, 98% | NC=1C=C2C=C(NC2=CC1)CO | C9H10N2O
